US06156702
Step b: 2,4-Dichloro-3-((2-pyridyl)(hydroxymethyl))benzoic acid
3.5 g (9.9 mmol) of tert-butyl 2,4-dichloro-3-((2-pyridyl)(hydroxymethyl))benzoate in 120 ml of toluene and 60 ml of water together with 1.9 g of p-toluenesulfonic acid are heated under reflux for 9 h. After cooling, the organic phase is separated off and the aqueous phase is admixed with a solution of 23.8 g of sodium dihydrogen phosphate in 280 ml of water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate, filtered and freed from the solvent under reduced pressure. Yield: 1.9 g; 1H NMR, δ [ppm], (DMSO-d6): 6.5 (m), 7.2 (m), 7.5 (d), 7.6 (d), 7.95 (m), 8.4 (d), 13.5 (broad s)

reactant | tert-butyl 2,4-dichloro-3-((2-pyridyl)(hydroxymethyl))benzoate | 9.9 mmol, 3.5 g | ClC1=C(C(=O)OC(C)(C)C)C=CC(=C1C(O)C1=NC=CC=C1)Cl | C17H17Cl2NO3
reactant | p-toluenesulfonic acid | 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 60 ml | O | H2O
product | 2,4-Dichloro-3-((2-pyridyl)(hydroxymethyl))benzoic acid | ClC1=C(C(=O)O)C=CC(=C1C(O)C1=NC=CC=C1)Cl | C13H9Cl2NO3
